US06509499B1
A solution of 0.77 ml (5.09 mmol) of o-toluenesulphonyl isocyanate in 7.7 ml of anhydrous methylene chloride is added dropwise to a suspension, maintained under a nitrogen atmosphere, of 1.3 g (5.32 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline in 25.6 ml of anhydrous methylene chloride. The temperature of the reaction medium rises spontaneously by 7° C. A precipitate forms in the solution initially obtained. Stirring is continued for 1 hour at room temperature and the solid is then isolated by filtration and washed with hexane to give 1.9 g (yield=86%) of 1-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-3-[(2-methylphenyl)sulphonyl]urea.

reactant | o-toluenesulphonyl isocyanate | 5.09 mmol, 0.77 ml | C=1(C(=CC=CC1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 5.32 mmol, 1.3 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
solvent | methylene chloride | 7.7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25.6 ml | C(Cl)Cl | CH2Cl2
product | 1-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-3-[(2-methylphenyl)sulphonyl]urea | 1.9 g, yield=86% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C | C17H19N3O7S2
